US08735417B2
To N-[3-(2-bromo-1,3-thiazol-5-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine (180 mg, 0.449 mmol) were added copper iodide (17.09 mg, 0.090 mmol), K2CO3 (124 mg, 0.897 mmol), 1,3-oxazolidin-2-one (78 mg, 0.897 mmol) and dioxane. N,N-dimethylethane-1,2-diamine (7.91 mg, 0.090 mmol) was added and the reaction was allowed to stir at 110° C. for 4 hours. The reaction mixture was diluted with ethyl acetate washed with brine, dried over Na2SO4 and concentrated in vacuo. The product was purified by column chromatography on silica gel (50-70% ethyl acetate/hexane) to afford 3-[5-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]-1,3-oxazolidin-2-one (98 mg, 54%) as an off-white solid. APCI [M+H]+ m/z 408.0. 1H NMR (500 MHz, CDCl3): δ 8.71 (d, J=4.9 Hz, 1H); 8.08 (s, 1H); 7.69 (s, 1H); 7.51 (d, J=8.1 Hz, 1H); 7.43-7.38 (m, 2H); 7.30 (s, 1H); 7.11 (d, J=4.9 Hz, 1H); 4.68 (t, J=8.1 Hz, 2H); 4.39 (t, J=8.1 Hz, 2H). rhSYK activity=+++.

reactant | N-[3-(2-bromo-1,3-thiazol-5-yl)phenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 0.449 mmol, 180 mg | BrC=1SC(=CN1)C=1C=C(C=CC1)NC1=NC=CC(=N1)C(F)(F)F | C14H8BrF3N4S
reactant | K2CO3 | 0.897 mmol, 124 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,3-oxazolidin-2-one | 0.897 mmol, 78 mg | O1C(NCC1)=O | C3H5NO2
reactant | N,N-dimethylethane-1,2-diamine | 0.090 mmol, 7.91 mg | CN(CCN)C | C4H12N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 0.090 mmol, 17.09 mg | [Cu](I)I
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-[5-(3-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)-1,3-thiazol-2-yl]-1,3-oxazolidin-2-one | 98 mg, 54% | FC(C1=NC(=NC=C1)NC=1C=C(C=CC1)C1=CN=C(S1)N1C(OCC1)=O)(F)F | C17H12F3N5O2S
